US05624950
To a suspension of 55.63 g of 2-methoxyphenylmagnesium bromide in 250 cm3 of tetrahydrofuran is added dropwise, at room temperature and with stirring, a solution of 20.16 g of (3aRS,7aSR)-2-Benzyl-4-perhydroisoindolone in 250 cm3 of tetrahydrofuran. The reaction mixture is stirred at room temperature for 18 hours, treated with 300 cm3 of saturated aqueous ammonium chloride solution, taken up in 200 cm3 of ethyl ether and washed with 300 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 8.8 cm, height 41 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 1000 cm3 fractions. Fractions 4 to 27 are combined and then concentrated to dryness under reduced pressure (2.5 kPa). 24.96 g of (3aRS,4RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-4-perhydroisoindolol are obtained in the form of white crystals melting at 106° C.

reactant | 2-methoxyphenylmagnesium bromide | 55.63 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aRS,7aSR)-2-Benzyl-4-perhydroisoindolone | 20.16 g | C(C1=CC=CC=C1)N1CC2CCCC(C2C1)=O | C15H19NO
reactant | ammonium chloride | 300 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | ethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | (3aRS,4RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-4-perhydroisoindolol | 24.96 g | C(C1=CC=CC=C1)N1CC2CCCC(C2C1)(O)C1=C(C=CC=C1)OC | C22H27NO2
